US07494999B2
To a solution of 4-(trifluoromethoxy)-benzaldehyde (776 uL, 4.38 mmol) in methylene chloride (30 mL) was added cis-2,6-dimethyl piperazine (1.0 g, 8.77 mmol). After 1 hour sodium triacetoxy borohydride (2.45 g, 8.77 mmol) was added to the mixture. The solution was stirred at room temperature for an additional 4 hours. The reaction was concentrated in vacuo, diluted with ethyl acetate and extracted with 1N HCl (2×50 mL). The aqueous layer was then neutralized with NaOH and extracted with ethyl acetate (3×50 mL). The organic layer was dried (Na2SO4) and concentrated to provide cis-3,5-dimethyl-1-(4-trifluoromethoxy-benzyl)-piperazine (1.01 g, 80%). 1H NMR (400 MHz, CD3OD) δ 7.42 (d, 2H), 7.23 (d, 2H), 3.54 (s, 2H), 2.98-2.88 (m, 2H), 2.82-2.74 (m, 2H), 1.69 (t, 2H), 1.05 (d, 6H); LCMS 289.5 (M+1)+.

reactant | 4-(trifluoromethoxy)-benzaldehyde | 4.38 mmol, 776 uL | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
reactant | cis-2,6-dimethyl piperazine | 8.77 mmol, 1.0 g | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | sodium triacetoxy borohydride | 8.77 mmol, 2.45 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | cis-3,5-dimethyl-1-(4-trifluoromethoxy-benzyl)-piperazine | 1.01 g, 80% | C[C@@H]1CN(C[C@@H](N1)C)CC1=CC=C(C=C1)OC(F)(F)F | C14H19F3N2O
